US03950353
N-(2-Dimethylaminoethyl)-N'-[2-(3-pyridazinylmethylamino)-ethyl]thiourea
Reacting N-(3-pyridazinylmethyl)ethylenediamine with 2-dimethylaminoethyl isothiocyanate by the procedure of Example 40 gives the title compound.

reactant | N-(3-pyridazinylmethyl)ethylenediamine | N1=NC(=CC=C1)CNCCN | C7H12N4
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(3-pyridazinylmethylamino)-ethyl]thiourea | CN(CCNC(=S)NCCNCC=1N=NC=CC1)C | C12H22N6S
